US05187037
Example 2: Preparation of N,N'-Bis(2-benzoyloxyethyl)-N,N,N',N'-tetramethyl-p-xylylenebisammonium Dichloride
A solution of 38.64 grams (0.20 mol) of 2-(N,N-dimethylamino)ethyl benzoate prepared as described in Example 1, 17.51 grams (0.10 mol) of α,α'dichloro-p-xylene and 112 milliters of acetonitrile was heated at reflux for 10 minutes. Solid began to precipitate at this time. Acetonitrile (55 milliters) was added and heating was continued for another 5 minutes. The reaction set up to a solid mass and was cooled. The solid was collected with acetonitrile rinse. The solid was washed with ether and dried. The yield of product was 44.0 grams (78.4% of theory); mp=209° C. dec.

reactant | 2-(N,N-dimethylamino)ethyl benzoate | 0.20 mol, 38.64 grams | C(C1=CC=CC=C1)(=O)OCCN(C)C | C11H15NO2
reactant | α,α'dichloro-p-xylene | 0.10 mol, 17.51 grams | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | N,N'-Bis(2-benzoyloxyethyl)-N,N,N',N'-tetramethyl-p-xylylenebisammonium Dichloride | [Cl-].[Cl-].C(C1=CC=CC=C1)(=O)OCC[N+](CC1=CC=C(C=C1)C[N+](C)(C)CCOC(C1=CC=CC=C1)=O)(C)C | InChI=1S/C30H38N2O4.2ClH/c1-31(2,19-21-35-29(33)27-11-7-5-8-12-27)23-25-15-17-26(18-16-25)24-32(3,4)20-22-36-30(34)28-13-9-6-10-14-28;;/h5-18H,19-24H2,1-4H3;2*1H/q+2;;/p-2
